US07049325B2
To a solution of 5-(2,4-difluoro-phenoxy)-6-methoxy-8-nitro-quinoline (1.36 g, 4.1 mmol) in 30 mL of THF was added an aqueous solution of sodium hypophosphite (2.7 g, 31 mmol in 10 mL H2O). The reaction mixture was degassed under N2, treated with Pd/C (˜1 g), and stirred at room temperature under N2 for 1 hour. The reaction mixture was filtered through Celite®, and washed with 1N NaOH solution followed by water. The organic layer was dried over MgSO4, and the solvent removed to give 0.9 g (75%) of 5-(2,4-difluoro-phenoxy)-6-methoxy-quinolin-8-ylamine.

reactant | 5-(2,4-difluoro-phenoxy)-6-methoxy-8-nitro-quinoline | 4.1 mmol, 1.36 g | FC1=C(OC2=C3C=CC=NC3=C(C=C2OC)[N+](=O)[O-])C=CC(=C1)F | C16H10F2N2O4
reactant | sodium hypophosphite | 31 mmol, 10 mL, 2.7 g | [PH2](=O)[O-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 5-(2,4-difluoro-phenoxy)-6-methoxy-quinolin-8-ylamine | 0.9 g, 75% | FC1=C(OC2=C3C=CC=NC3=C(C=C2OC)N)C=CC(=C1)F | C16H12F2N2O2
